US07238696B2
Preparation of 4-[4-(t-Butoxycarbonyl)piperazin-1-yl]-3-(1-naphthylthio)-1H-indazole
A mixture of 4-[4-(t-butoxycarbonyl)piperazin-1-yl]-3-iodo-1H-indazole (0.068 g, 0.159 mmol), copper(I) iodide (0.005 g, 0.024 mmol) and potassium carbonate (0.044 g, 0.318 mmol) are added to a screw-capped test tube with a Teflon-lined septum. The tube is evacuated and backfilled with argon and this procedure repeated twice more. The reaction mixture is treated sequentially with 2-propanol (1.5 mL), ethylene glycol (19 μL, 0.318 mmol) and 1-naphthalenethiol (0.051 g, 0.318 mmol), heated at 130°–140° C. for 8 h, cooled to room temperature, diluted with ethyl acetate and filtered through diatomaceous earth. The filtrate is concentrated under reduced pressure. The resultant crude material is purified by flash chromatography (silica gel, 40:60 ethyl acetate/hexanes) to afford the title compound as a colorless oil, 0.033 g (45% yield), identified by NMR and mass spectral analyses.

reactant | 4-[4-(t-butoxycarbonyl)piperazin-1-yl]-3-iodo-1H-indazole | 0.159 mmol, 0.068 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2C(=NNC2=CC=C1)I | C16H21IN4O2
reactant | potassium carbonate | 0.318 mmol, 0.044 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethylene glycol | 0.318 mmol, 19 μL | C(CO)O | C2H6O2
reactant | 1-naphthalenethiol | 0.318 mmol, 0.051 g | C1(=CC=CC2=CC=CC=C12)S | C10H8S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper(I) iodide | 0.024 mmol, 0.005 g | [Cu]I
solvent | 2-propanol | 1.5 mL | CC(C)O | C3H8O
product | 4-[4-(t-Butoxycarbonyl)piperazin-1-yl]-3-(1-naphthylthio)-1H-indazole | 45% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2C(=NNC2=CC=C1)SC1=CC=CC2=CC=CC=C12 | C26H28N4O2S
